US08633173B2
(4-Methanesulfonyl-phenyl)-(8-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine was prepared from 8-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (500 mg, 3.37 mmol) and 1-bromo-4-methanesulfonyl-benzene (973 mg, 1.23 mmol) in a manner analogous to Example 2d. Product was isolated as an off-white solid (0.369 g, 36%). MP=227-230° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.35 (s, 1H), 8.67 (d, J=6.9 Hz, 1H), 7.88 (d, J=8.9 Hz, 2H), 7.82 (d, J=8.9 Hz, 2H), 7.42 (d, J=7.1 Hz, 1HO, 6.99 (dd, J=7.1 Hz, 7.1 Hz, 1H), 3.14 (s, 3H). MS=303 (MH)+.

reactant | 8-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 3.37 mmol, 500 mg | CC=1C=2N(C=CC1)N=C(N2)N | C7H8N4
reactant | 1-bromo-4-methanesulfonyl-benzene | 1.23 mmol, 973 mg | BrC1=CC=C(C=C1)S(=O)(=O)C | C7H7BrO2S
product | (4-Methanesulfonyl-phenyl)-(8-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C)=N1 | C14H14N4O2S
